US07338960B2
N-Ethyl-3-(methyloxy)-N-(phenylmethyl)propanamide
A suspension of 1,1′-carbonyldiimidazole (23.20 g, 0.14 mol) in dry DCM (240 mL) was added portion-wise over 15 min to a solution of 3-methoxypropionic acid (10.00 mL, 0.11 mol) in DCM (100 mL) under nitrogen at room temperature. The resulting solution was stirred under nitrogen for 1 h and then treated with a solution of N-ethylbenzylamine (32.70 mL, 0.22 mol) in dry DCM (140 mL) drop-wise over 50 min. The resultant pale brown solution was stirred under nitrogen at room temperature for 16 h and then reduced in vacuo. The orange residue was partitioned between EtOAc (500 mL) and saturated aqueous NaHCO3 (500 mL), the layers separated and the organic layer washed with aqueous HCl (2M, 500 mL) and brine (350 mL). Each of the aqueous washings was then re-extracted with EtOAC (250 mL) and the combined organic layer dried (MgSO4), filtered and reduced in vacuo to give a yellow oil. Purification by Biotage (silica, 5×90 g cartridges), eluting with cyclohexane:EtOAc 95:5 then 3:2 afforded the title compound as a pale yellow oil (20.39 g).

reactant | 1,1′-carbonyldiimidazole | 0.14 mol, 23.20 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methoxypropionic acid | 0.11 mol, 10.00 mL | COCCC(=O)O | C4H8O3
reactant | N-ethylbenzylamine | 0.22 mol, 32.70 mL | C(C)NCC1=CC=CC=C1 | C9H13N
solvent | DCM | 240 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 140 mL | C(Cl)Cl | CH2Cl2
product | N-Ethyl-3-(methyloxy)-N-(phenylmethyl)propanamide | 20.39 g | C(C)N(C(CCOC)=O)CC1=CC=CC=C1 | C13H19NO2
